US08609653B2
4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
A mixture of (4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (967 mg, 2.300 mmol) in dichloromethane (DCM) (24 mL) was treated with PCC (644 mg, 2.99 mmol) and the mixture was stirred at ambient temperature for 90 minutes. The mixture was diluted with dichloromethane, filtered over Celite™ and the filtrate was concentrated. The residue was purified on silica gel (0-70% ethyl acetate/hexanes) to afford the desired product as a pale yellow foam: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.11 (s, 1 H), 7.22 (dd, J=2.1, 8.4 Hz, 1 H), 7.16-7.04 (m, 4 H), 7.04-6.97 (m, 1 H), 6.93 (d, J=8.4 Hz, 1 H), 6.44 (d, J=3.5 Hz, 1 H), 5.47 (s, 2 H), 4.37-4.20 (m, 2 H), 2.95 (s, 3 H), 2.86 (t, J=6.4 Hz, 2 H), 2.20-1.96 (m, 2 H); LC/MS (m/z) ES+=419 (M+1).

reactant | (4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 2.300 mmol, 967 mg | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1CO)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C25H22F2N2O2
reactant | PCC | 2.99 mmol, 644 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
product | 4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C=O)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C25H20F2N2O2
